### PR TITLE
power function for extended real numbers

### LINKED ISSUE #883: duplicate of eq_measurable_fun ?
https://github.com/math-comp/analysis/blob/3d42a9b854c450bbf1155f2be15e19623837b9fb/theories/measure.v#L1065

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

generalize `power_pos` to extended real numbers

taken from PR #790

~~waiting for PR #887 to prove powere12_sqrt~~

fixes #883 

@hoheinzollern @t6s @proux01 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
  (only append to minimize problems when merging/rebasing)
  (you can consider the use of `etc/changes.sh` to generate the changelog)
- [x] added corresponding documentation in the headers

##### Compatibility with MathComp 2.0

- [x] I added the label `TODO: HB port` to make sure someone ports this PR to
      the `hierarchy-builder` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: CHANGELOG_UNRELEASED.md [hunk 1]
```diff
@@ -138,6 +145,8 @@
 
 - in `lebesgue_measure.v`:
   + lemma `ae_eq_mul`
+- in `measure.v`:
+  + lemma `measurable_fun_ext`
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:149]: This seems only deprecated, rather than removed.

File: theories/exp.v [hunk 2]
```diff
@@ -686,6 +687,9 @@ rewrite -(opprK z) (_ : - z = `|z|%N); last by rewrite ltz0_abs.
 by rewrite -exprnN -power_pos_inv// nmulrn.
 Qed.
 
+Lemma ln_power_pos s r : s != 0%R -> ln ((s `^ r)%R) = (r * ln s)%R.
```
Comment (proux01) [inline theories/exp.v:690]: `ring_scope` is already opened
```suggestion
Lemma ln_power_pos s r : s != 0 -> ln (s `^ r) = r * ln s.
```

File: theories/exp.v [hunk 3]
```diff
@@ -699,7 +703,96 @@ by rewrite h oppr_gt0 ltNge sqrtr_ge0.
...
+Qed.
+
+Lemma powere_posM x y r : 0 <= x -> 0 <= y -> (x * y) `^ r = x `^ r * y `^ r.
+Proof.
+move: x y => [x| |] [y| |]//=.
+- by move=> x0 y0; rewrite -EFinM power_posM.
+- move=> x0 _; case: ifPn => /= [/eqP ->|r0].
+  + by rewrite mule1 power_posr0 powere_pose0.
+  + move: x0; rewrite le_eqVlt => /predU1P[[]<-|/[1!(@lte_fin R)] x0].
+    + by rewrite mul0e powere_pos0r power_pos0 (negbTE r0)/= mul0e.
```
Comment (proux01) [inline theories/exp.v:776]:
```suggestion
    * by rewrite mul0e powere_pos0r power_pos0 (negbTE r0)/= mul0e.
```

File: CHANGELOG_UNRELEASED.md [hunk 4]
```diff
@@ -69,6 +69,13 @@
   + definition `sqrte`
   + lemmas `sqrte0`, `sqrte_ge0`, `lee_sqrt`, `sqrteM`, `sqr_sqrte`,
     `sqrte_sqr`, `sqrte_fin_num`
+- in `exp.v`:
+  + lemma `ln_power_pos`
+  + definition `powere_pos`, notation ``` _ `^ _ ```
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:74]:
```suggestion
  + definition `powere_pos`, notation ``` _ `^ _ ``` in `ereal_scope`
```

File: CHANGELOG_UNRELEASED.md [hunk 5]
```diff
@@ -69,6 +69,13 @@
...
+  + lemmas `powere_pos_EFin`, `powere_posyr`, `powere_pose0`, `powere_pose1`,
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:75]:
```suggestion
  + lemmas `powere_pos_EFin`, `powere_posyr`, `powere_pose0`, `powere_pose1`, `powere_posNyr`
```

**Review by proux01 — APPROVED** [review]
LGTM, I'm pushing a commit with the few details and merging.
